US07696248B2
Step B. 4′-tert-Butyl-biphenyl-4-ylamine
To a solution of the 4′-tert-Butyl-4-nitro-biphenyl (1.8 g) in ethanol (20 mL) is added palladium (10%) on carbon (0.15 g). The reaction is charged to 30 psi under a hydrogen atmosphere and allowed to stir for 4 h. The mixture is then filtered through a pad of Celite®. The solution is concentrated and purified by reverse phase HPLC using 0.1% TFA in water and acetonitrile to afford 1.6 g of the titled compound as a white solid. 1H-NMR.

reactant | 4′-tert-Butyl-4-nitro-biphenyl | 1.8 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H17NO2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 4′-tert-Butyl-biphenyl-4-ylamine | 1.6 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)N | C16H19N
